US07138414B2
b) 5-(2-aminophenyl)-[1,3,4]oxadiazol-2-ylamine
Hydrogen was introduced at atmospheric pressure into the solution of 350 mg of 5-(2-nitrophenyl)-[1,3,4]oxadiazol-2-ylamine until the theoretical amount had been taken up. After filtering off the catalyst with suction and concentrating the mixture under reduced pressure, the remaining oily residue was purified by column chromatography (solvent: 95:5 dichloromethane/methanol; silica gel).

reactant | Hydrogen | [H][H] | H2
reactant | 5-(2-nitrophenyl)-[1,3,4]oxadiazol-2-ylamine | 350 mg | [N+](=O)([O-])C1=C(C=CC=C1)C1=NN=C(O1)N | C8H6N4O3
product | 5-(2-aminophenyl)-[1,3,4]oxadiazol-2-ylamine | NC1=C(C=CC=C1)C1=NN=C(O1)N | C8H8N4O
